US05916898
A mixture of 3-ethoxycarbonyl-8-amino-quinoline (9. 9 g), 2, 2-dimethyl-5-methoxymethylene-1,3-dioxan-4,6-dione (Monatsh. Chem., 98:564-78 (1967))(10.3 g) and ethanol (80 ml) was stirred at reflux for 2 hours. The mixture was cooled and filtered. The solid so obtained was washed with ethanol to give 8-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylideneamino)-3-ethoxycarbonylquinoline in 80% yield, mp 228-231° C.

reactant | 3-ethoxycarbonyl-8-amino-quinoline | 9 g | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1)N | C12H12N2O2
reactant | 2, 2-dimethyl-5-methoxymethylene-1,3-dioxan-4,6-dione | 10.3 g | CC1(OC(C(C(O1)=O)=COC)=O)C | C8H10O5
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 8-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylideneamino)-3-ethoxycarbonylquinoline | 80% yield | CC1(OC(C(C(O1)=O)=NC=1C=CC=C2C=C(C=NC12)C(=O)OCC)=O)C | C18H16N2O6
